US09120819B2
Stage A: Methyl 2-amino-5-({1-[3-(2-tert-butoxy-2-oxoethoxy)phenyl]-2-methylindolizin-3-yl}carbonyl)benzoate
The mixture of 2.78 g (7.18 mmol) of methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate (described in Patent Application WO2005028476), 3.6 g (10.8 mmol) of tert-butyl[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate (CAS 769968-18-5; described in Patent Application WO2004084813), 0.73 g (1.0 mmol) of PdCl2(dppf) in 22 ml of a molar solution of potassium phosphate and 100 ml of 1,2-dimethoxyethane is heated at 100° C. under argon. After 2 hours and 4 hours, a further 100 mg of PdCl2(dppf) are added. After 6 hours at 100° C. under argon, the reaction medium is allowed to return to ambient temperature and is then filtered. The organic solution is washed with water and with a saturated solution of sodium chloride, dried over sodium sulphate and concentrated to dryness. The residue obtained is purified by flash chromatography on silica gel (dichloromethane/diisopropyl ether gradient=100/0 to 0/100), to give 2.84 g (77%) of a yellow powder.

reactant | methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate | 7.18 mmol, 2.78 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)Br)C | C18H15BrN2O3
reactant | tert-butyl[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate | 10.8 mmol, 3.6 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C18H27BO5
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | PdCl2(dppf) | 1.0 mmol, 0.73 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | Methyl 2-amino-5-({1-[3-(2-tert-butoxy-2-oxoethoxy)phenyl]-2-methylindolizin-3-yl}carbonyl)benzoate | 2.84 g, 77% | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)C1=CC(=CC=C1)OCC(=O)OC(C)(C)C)C | C30H30N2O6
